US08350090B1
3-Benzyloxyphenylacetic acid (3.5 kg, 14.45 mol) was dissolved in CH2Cl2 (35 L), and furan (3.0 kg, 44 mol) and trifluoroacetic anhydride (4.55 kg, 21.65 mol) were added to the solution. The reaction was kept being stirred at room temperature for 2 days. The reaction was quenched with saturated NaHCO3 to pH=6.9, and the organic reagent in the mixture was evaporated. The residue was extracted with EtOAc, and the organic layer was washed with brine, dried over MgSO4, and evaporated. The resulting residue was purified by chromatography on a silica gel column using hexane-EtOAc as eluent to give the 1-(furan-2-yl)-2-(3-benzyloxyphenyl)ethan-1-one as yellow oil: 4 kg (yield: 95%)

reactant | 3-Benzyloxyphenylacetic acid | 14.45 mol, 3.5 kg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CC(=O)O | C15H14O3
reactant | furan | 44 mol, 3.0 kg | O1C=CC=C1 | C4H4O
reactant | trifluoroacetic anhydride | 21.65 mol, 4.55 kg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | CH2Cl2 | 35 L | C(Cl)Cl | CH2Cl2
product | 1-(furan-2-yl)-2-(3-benzyloxyphenyl)ethan-1-one | yield: 95% | O1C(=CC=C1)C(CC1=CC(=CC=C1)OCC1=CC=CC=C1)=O | C19H16O3
